US04897490
A. 3,3-Bis(4-fluorophenyl)-2-[2-(1,1-dimethylethyl)-2H-tetrazol-5-yl]-2-propenol
To a stired solution of ethyl 3,3-bis(4-fluorophenyl)-2-[2-(1,1-dimethylethyl)-2H-tetrazol-5-yl]-2-propenoate (2.0 g, 4.8 mmoles) in dry methylene chloride (10 mL) under argon at -78° C. was added 10 mL of diisobutylaluminum hydride solution (1.0 Molar solution in methylene chloride) over a period of three minues. The reduction was llowed to proceed at -78° C. under argon for two hours. Analytical TLC eluted twice with 20% (v/v) ethyl acetate in hexanes showed no starting material at Rf =0.42 and a major spot at Rf =0.14 for desired product. The crude reaction misture (at -78° C.) was diluted with 10 mL of 2N HCl followed by extractions with ethyl acetate (40 mL×2). The organic layers were combined, dried over MgSO4, evaporated under reduced pressure and dried under high vacuum at room temperature overnight to give the title compound which was used without further purification in the next step.

reactant | ethyl 3,3-bis(4-fluorophenyl)-2-[2-(1,1-dimethylethyl)-2H-tetrazol-5-yl]-2-propenoate | 4.8 mmoles, 2.0 g | FC1=CC=C(C=C1)C(=C(C(=O)OCC)C=1N=NN(N1)C(C)(C)C)C1=CC=C(C=C1)F | C22H22F2N4O2
reactant | diisobutylaluminum hydride | 1.0 Molar, 10 mL | [H-].C(C(C)C)[Al+]CC(C)C
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | HCl | 2N, 10 mL | Cl | ClH
product | 3,3-Bis(4-fluorophenyl)-2-[2-(1,1-dimethylethyl)-2H-tetrazol-5-yl]-2-propenol | FC1=CC=C(C=C1)C(=C(CO)C=1N=NN(N1)C(C)(C)C)C1=CC=C(C=C1)F | C20H20F2N4O
